US06180635B2
6-(3-Imino-1,3-dihydro-benzo[c]furan-1-yl)-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidine-2,4(1H, 3H)-dione
To a solution of 3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidin-2,4(1H,3H)-dione (500 mg) in tetrahydrofuran (10 ml) at −78° C. was added lithium diisopropylamide (1M, 3.1 ml). After 5 minutes a solution of o-cyanobenzaldehyde in tetrahydrofuran (2 ml) was added and the reaction was allowed to stir for 2 h. Water (10 ml) was the added and the mixture was allowed to warm to room temperature. The mixture was extracted with ethyl acetate. The organic layer was separated and dried over magnesium sulfate, then concentrated in vacuo and purified by normal phase HPLC to yield the title compound (15 mg).

reactant | 3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | 500 mg | CN1C(N(C2=C(C1=O)C=CS2)CC(C)C)=O | C11H14N2O2S
reactant | lithium diisopropylamide | 1M, 3.1 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | o-cyanobenzaldehyde | C(#N)C1=C(C=O)C=CC=C1 | C8H5NO
reactant | Water | 10 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 6-(3-Imino-1,3-dihydro-benzo[c]furan-1-yl)-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidine-2,4(1H, 3H)-dione | 15 mg | N=C1C2=C(C(O1)C1=CC3=C(N(C(N(C3=O)C)=O)CC(C)C)S1)C=CC=C2 | C19H19N3O3S
